US05714626
Using the same apparatus and procedure as described in Example 1, the onset temperature for a one gram sample of 82.5% di-2-ethylhexyl peroxydicarbonate diluted in OMS was measured. The procedure was repeated with separate samples of the above solution to which ethyl-2-cyclohexanone carboxylate, 2-acetyl cyclohexanone, 2-acetyl cyclopentanone, methyl-2-cycloheptanone carboxylate, ethyl-2-oxocyclopentane carboxylate, dibenzoyl methane, and ethyl-4-methyl-2-cyclohexanone-1-carboxylate had been added. The results are shown in Table II. Results obtained with ethyl acetoacetate, which is disclosed in the prior art, are included for comparison.

reactant | 2-acetyl cyclohexanone | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | 2-acetyl cyclopentanone | C(C)(=O)C1C(CCC1)=O | C7H10O2
reactant | ethyl-2-oxocyclopentane carboxylate | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
reactant | dibenzoyl methane | C(C1=CC=CC=C1)(=O)CC(C1=CC=CC=C1)=O | C15H12O2
reactant | ethyl-4-methyl-2-cyclohexanone-1-carboxylate | CCOC(=O)C1CCC(CC1=O)C | C10H16O3
product | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
